US06034121
A cooled (10° C.) stirred solution of 4-bromophenol (3 g) and triethylamine (2.5 ml) in dichloromethane (100 ml) was treated with 4-chlorophenylacetyl chloride (3.3 g) in dichloromethane (50 ml). The mixture was stirred at room temperature overnight. The solution was washed with water, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by silica gel chromatography to give 4-bromophenyl 4-chlorophenylacetate.

reactant | 4-bromophenol | 3 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylacetyl chloride | 3.3 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-bromophenyl 4-chlorophenylacetate | ClC1=CC=C(C=C1)CC(=O)OC1=CC=C(C=C1)Br | C14H10BrClO2
